US09029545B2
3-Methyl-1-[3-(methyloxy)phenyl]-1-butanone
To a stirred solution of 3-(methyloxy)benzaldehyde (4.77 g, 35 mmol) in diethyl ether (100 mL) at 0° C. was added bromo(2-methylpropyl)magnesium (21 mL, 42 mmol). The solution was stirred for 10 min at 0° C. and then worked-up with 0.6M HCl (150 mL) and ethyl acetate (200 mL), to afford a crude material. In another round bottom flask of oxalyl chloride (4.60 mL, 52.5 mmol) in DCM (150 mL) at −78° C. was added DMSO (4.97 mL, 70.0 mmol), dissolved in dry DCM (20 mL), followed by a solution of the above crude material dissolved in dry DCM (25 mL). The resulting mixture was stirred for 1 h at −78° C., then triethylamine (24.39 mL, 175 mmol) was added and the solution stirred at −78° C. for 1 h. The reaction was quenched at −78° C. and the product was extracted by DCM and washed with water/brine. The crude material was purified by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in hexane, to afford the title compound (4.12 g). LCMS (B) m/z: 193 [M+1]+, Rt 3.11 min.

reactant | 3-(methyloxy)benzaldehyde | 35 mmol, 4.77 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | bromo(2-methylpropyl)magnesium | 42 mmol, 21 mL | Br[Mg]CC(C)C
reactant | HCl | 0.6M, 150 mL | Cl | ClH
reactant | oxalyl chloride | 52.5 mmol, 4.60 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 70.0 mmol, 4.97 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 175 mmol, 24.39 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-Methyl-1-[3-(methyloxy)phenyl]-1-butanone | 4.12 g | CC(CC(=O)C1=CC(=CC=C1)OC)C | C12H16O2
